US06649643B1
Production of N-Cyclopropylmethyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (1.78 g) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with cyclopropylamine hydrochloride (405 mg) in a similar manner as described in Example 24-(i) to give the titled compound (1.59 g) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 1.78 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | cyclopropylamine hydrochloride | 405 mg | Cl.C1(CC1)N
product | N-Cyclopropylmethyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 1.59 g | C1(CC1)CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O | C22H25N3O2
